US04112096
B. 2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
A suspension of 3.84 g (0.015 mole) of 5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid ethyl ester prepared as described in part A above is stirred in 150 ml of tetrahydrofuran under nitrogen at room temperature. There is added 24 ml (0.034 mole) of a 20% solution of diisobutyl aluminum hydride in hexane. The resultant solution is stirred for 1 hour at room temperature whereupon 50 ml of methanol is added and the reaction mixture refluxed for 1 hour. The precipitate of aluminum alkoxide is filtered, air dried and Soxhlet extracted for 48 hours with boiling methanol. The extract is combined with the above filtrate and stripped to give 3.2 g of a white solid (quantitative yield). Recrystallization from methanol gives 2.7 g of pure title compound, m.p. 285°-287°.

reactant | 5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid ethyl ester | 0.015 mole, 3.84 g | C(C)OC(=O)C1=NN2C(NC=3C=CC=CC3C2=C1)=O | C13H11N3O3
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 3.2 g, quantitative yield | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C11H9N3O2
